US08357707B2
Intermediate O: (1S,5R)-2-Aza-bicyclo[3.1.0]hexane-1-carboxylic acid amide
A mixture of (1S,5R)-2-aza-bicyclo[3.1.0]hexane-1-carboxylic acid ethyl ester (2.5 g, prepared by the procedure of Hercouet Tetrahedron Asymmetry 1996, 7, 1267-1268.) and 7 M ammonia in MeOH (20 ml) was heated in a sealed vessel at 80° C. for 5 days. The cooled RM was evaporated and triturated with hexanes/DCM to give the title compound as a beige solid. 1H-NMR (DMSO-d6, 400 MHz): 7.15 (s, 1H), 7.04 (s, 1H), 3.00-2.91 (m, 1H), 2.67 (q, 1H), 1.94-1.83 (m, 1H), 1.74-1.67 (m, 1H), 1.64-1.55 (m, 1H), 1.38-1.31 (m, 1H), 0.90 (t, 1H)).

reactant | (1S,5R)-2-aza-bicyclo[3.1.0]hexane-1-carboxylic acid ethyl ester | C(C)OC(=O)[C@]12NCC[C@@H]2C1 | C8H13NO2
reactant | ammonia | 7 M | N | H3N
solvent | MeOH | 20 ml | CO | CH4O
product | (1S,5R)-2-Aza-bicyclo[3.1.0]hexane-1-carboxylic acid amide | [C@@]12(NCC[C@@H]2C1)C(=O)N | C6H10N2O
